US04521629
Preparation of 1,5-bis(α,α,α-trifluoro-p-tolyl)-1,4-pentadien-3-one by the process of the invention
A mixture of 4-trifluoromethylbenzaldehyde (65.2 g; 0.369 mol), heptane (70 ml), 10% sodium hydroxide solution (15 g) and water (30 ml) is stirred under a nitrogen atmosphere and heated to 40° C. Next, a solution of acetone (10.7 g) and of bis(2-hydroxyethyl)methyloleylammonium chloride (1.6 g) in heptane (30 ml) is added dropwise over three hours at the above temperature. After the addition is completed, the mixture is stirred at 40° C. to 45° C. for two hours. After two hours, isopropyl alcohol (68 ml) and hydrochloric acid (9.4 ml; concentrated) are added and the mixture heated at reflux for 1.5 hours. The reaction mixture is then cooled to 20° C., the precipitated solid is isolated by filtration, washed with heptane (40 ml) and water to afford 56.8 g of 99.6% pure title product, mp 154° C. to 156° C. (83.0% yield).

reactant | 4-trifluoromethylbenzaldehyde | 0.369 mol, 65.2 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | bis(2-hydroxyethyl)methyloleylammonium chloride | 1.6 g | [Cl-].OCC[NH+](CCCCCCCC\C=C/CCCCCCCCC)CCO
reactant | hydrochloric acid | 9.4 ml | Cl | ClH
solvent | heptane | 30 ml | CCCCCCC | C7H16
solvent | heptane | 70 ml | CCCCCCC | C7H16
solvent | isopropyl alcohol | 68 ml | C(C)(C)O | C3H8O
solvent | acetone | 10.7 g | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
product | 1,5-bis(α,α,α-trifluoro-p-tolyl)-1,4-pentadien-3-one | 99.6% | FC(C1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C19H12F6O
